US08049015B2
3-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-N-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide and (5-bromo-pyridin-3-yl)-acetic acid ethyl ester were reacted as described in Example 3, Step 6 to provide (5-{2-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-methylcarbamoyl-phenyl}-pyridin-3-yl)-acetic acid ethyl ester.

reactant | 3-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-N-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide | C(C1=CC=CC=C1)N(C(=O)C1CC1)CC=1C=C(C(=O)NC)C=CC1B1OC(C(O1)(C)C)(C)C | C26H33BN2O4
reactant | (5-bromo-pyridin-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)Br)=O | C9H10BrNO2
product | (5-{2-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-methylcarbamoyl-phenyl}-pyridin-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(NC)=O)CN(C(=O)C1CC1)CC1=CC=CC=C1)=O | C29H31N3O4
